US09212187B2
Synthesis of 6-(8-bromooctyloxy)-2-methoxyquinoline
Sodium hydride (60% in oil, 40 mg) was suspended in DMF(2 ml), and was cooled to 0° C. in ice water bath. 6-Hydroxy-2-methoxyquinoline(171 mg) was added thereto at the same temperature, and the mixture was stirred at 0° C. for an hour. 1,8-Dibromooctane(0.37 ml) was added thereto, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with sodium sulfate, and was condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=10:1). The purified product was condensed to dryness under reduced pressure to give the title compound(225 mg) as a white powder.

reactant | Sodium hydride | 40 mg | [H-].[Na+]
reactant | 6-Hydroxy-2-methoxyquinoline | 171 mg | OC=1C=C2C=CC(=NC2=CC1)OC | C10H9NO2
reactant | 1,8-Dibromooctane | 0.37 ml | BrCCCCCCCCBr | C8H16Br2
reactant | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-(8-bromooctyloxy)-2-methoxyquinoline | 225 mg | BrCCCCCCCCOC=1C=C2C=CC(=NC2=CC1)OC | C18H24BrNO2
